### ISSUE TITLE
Elaboration of explicit term proof significantly slower than equivalent tactic proof

### ISSUE THREAD

**Issue by somombo** [leanprover/lean4#4051]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

I have an example of a term based proof (in a recursive context) being about 200 times slower to elaborate than by simply adding "`by exact` ..." (or "by apply ...") to the front of the same term (see [mwe](https://leanprover-community.github.io/mwe.html) below).

### Context
_**See [Swap-Perm](https://github.com/somombo/swaps-perm) project which formally defines permutations of arrays and proves related theorems.**_

I am trying to prove a basic theorem about an extension to the definition of `Array.swap` that allows for making several swaps all at once. My extension is called `Array.swaps` and accepts a list of pairs of indices instead of just a single pair of indices.

My first attempt at the theorem in question (`Array.swaps_cancel` below) was a entirely a term based recursive proof. The offending line of code was inductive hypothesis (See
https://github.com/somombo/swaps-perm/blob/b4a05c1775ad1d32eadc07b635c10a25323a1815/SwapsPerm.lean#L100-L101)

### Steps to Reproduce
Consider the following [mwe](https://leanprover-community.github.io/mwe.html):

```lean
def Array.swaps (a : Array α) : List (Fin a.size × Fin a.size) → Array α
  | [] => a
  | (i, j) :: ijs =>
    have : (a.swap i j).size = a.size := a.size_swap _ _

    swaps (a.swap i j) (ijs.map (fun p => ⟨⟨p.1.1, this.symm ▸ p.1.2⟩, ⟨p.2.1, this.symm ▸ p.2.2⟩⟩))
termination_by l => l.length

set_option trace.profiler true in
theorem Array.swaps_cancel (a : Array α) (l : List (Fin a.size × Fin a.size)) : a.swaps (l ++ l.reverse) = a :=
  match l with
  | [] => sorry
  | c :: cs =>

    have h : a.size = (a.swaps [c]).size := sorry

    have ih1 : ((a.swaps [c]).swaps ((h ▸ cs) ++ (h ▸ cs).reverse)) = (a.swaps [c]) := swaps_cancel (a.swaps [c]) (h ▸ cs) -- FIXME: takes approx 5s
    -- have ih2 : swaps (swaps a [c]) (h ▸ cs ++ List.reverse (h ▸ cs)) = swaps a [c] := swaps_cancel (a.swaps [c]) (h ▸ cs) -- FIXME: takes approx 1.7s
    -- have ih3 : ((a.swaps [c]).swaps ((h ▸ cs) ++ (h ▸ cs).reverse)) = (a.swaps [c])  := by exact swaps_cancel (a.swaps [c]) (h ▸ cs) -- LGTM: takes approx 0.025s
    -- have ih4  := swaps_cancel (a.swaps [c]) (h ▸ cs) -- LGTM: takes approx 0.018s

    sorry
termination_by l.length
decreasing_by sorry
```

Take note of inductive hypotheses `ih1`, `ih2`, and `ih4` which are all proven using an exact term and `ih3` which is proven by tactic.

Uncomment whichever inductive hypothesis you would like to test the performance of, and comment out the rest. Upon the completion of elaboration, `trace.profiler` will show how many seconds it took to elaborate the version of the theorem with whichever inductive hypothesis is under consideration.

**Expected behavior:** I'd expect inductive hypothesis `ih3`, to either elaborate (almost) as quickly as `ih2` and `ih1` or be **slower** than them. I'd additionally expect all proofs to take no more than say 0.5-1sec to elaborate (seeing as they are relatively straight forward). Lastly, I am surprised to see that leaving out the type (theorem statement) entirely while using an exact term proof as in `ih4` resulted in the fastest elaboration of all. The type it infers in that case, is precisely the one I explicitly provided in `ih2`.

**Actual behavior:** 
On my machine (v4.7.0) the various versions take the following amounts of time to elaborate
- `ih1` takes approx 5s
- `ih2` takes approx 1.7s
- `ih3` takes approx 0.025s
- `ih4` takes approx 0.018s

### Versions

mainly 4.7.0 .. (on 4.8.0-rc1, all results above were consistently about 1 or 2seconds slower)
Windows 10 Pro Version 22H2 Build 19045.4291
Also, WSL Ubuntu 20.04.6 LTS (results were similar to above)

### Additional Information

n/a

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks for the excellent bug report, including even checking that it’s still the case on 4.8.0-rc1.

**Comment by nomeata** [comment]
Initial investigation:

Unsurprisingly
```
attribute [irreducible] Array.swaps
```
will make all of them very fast, so #3995 or maybe #4002 might fix this.

Indeed
```
attribute [irreducible] WellFounded.fix
```
makes it much faster, but still slower than with `Array.swaps` irreducible. This is an indication that #3995 may be preferable to #4002.

The new diagnostics confirm this; the first line produces
```
[reduction] unfolded declarations (max: 44101, num: 30): ▼
  List.rec ↦ 44101
  Acc.rec ↦ 29400
  Nat.rec ↦ 29400
  PSigma.rec ↦ 19742
  List.length ↦ 19601
  set ↦ 18900
  WellFounded.apply ↦ 14952
  WellFounded.rec ↦ 14952
  Eq.rec ↦ 14700
  List.map ↦ 14700
  sizeOf ↦ 9942
  InvImage.accessible ↦ 9940
  InvImage.accAux ↦ 9940
  rfl ↦ 9802
  InvImage.wf ↦ 4958
  invImage.proof_1 ↦ 4958
  swaps._unary.proof_1 ↦ 4956
  swaps ↦ 4914
  WellFounded.fix ↦ 4914
  WellFounded.fixF ↦ 4914
  swaps._unary ↦ 4914
  Add.add ↦ 4900
  swap ↦ 4900
  HAdd.hAdd ↦ 4900
  Nat.add ↦ 4900
  Nat.eq_or_lt_of_le ↦ 4900
  Or.rec ↦ 4900
  Prod.rec ↦ 4900
  Append.append ↦ 350
  HAppend.hAppend ↦ 350
```

So it’s clear that something is starting to unfold `Array.swaps` here, and that this isn’t good. But I wonder if we can find out which call to defeq is doing that, and whether we can avoid them (as they might be expensive independent of wfrec).

**Comment by nomeata** [comment]
The problem is certainly within the subst notation, because
```
    have ih1 : ((a.swaps [c]).swaps ((h.rec (motive := fun n _ => List (Fin n × Fin n)) cs) ++ (h.rec (motive := fun n _ => List (Fin n × Fin n)) cs).reverse)) = (a.swaps [c]) := swaps_cancel (a.swaps [c]) (h.rec (motive := fun n _ => List (Fin n × Fin n)) cs) -- LGTM: takes approx 0.018s
```
is also fast and we see in the example above that using `by exact` (which hides the expected type) has an impact.

**Comment by nomeata** [comment]
With
```
set_option trace.Meta.isDefEq.onFailure true in
```
you get this (large) output: 
https://gist.github.com/nomeata/b637a6acd24449be9d6e92f0c7455bfd
and there is certainly a lot of repetition. Maybe somehow caching doesn’t work as it should?
